US07772233B2
5-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-pyridine-2-carbonitrile
To solution of 2-fluoro-4-iodoaniline (930.5 mg, 3.93 mmol) and 3,5-difluoropyridine-2-carbonitrile (500 mg, 3.57 mmol) in THF (8 mL) at −78° C., was added LiHMDS (6.1 ml, 7.50 mmol). The mixture was allowed to warm to room temperature and stirred for 12 h. The mixture as diluted with ethyl acetate and washed with H2O and brine. The organic layer was dried with solid Na2SO4 and was concentrated. The resulting residue was purified by flash chromatography in silica (25% ethyl acetate-hexane) to give pure product. LC/MS [7.72 min; 358 (M+1)].

reactant | 2-fluoro-4-iodoaniline | 3.93 mmol, 930.5 mg | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | 3,5-difluoropyridine-2-carbonitrile | 3.57 mmol, 500 mg | FC=1C(=NC=C(C1)F)C#N | C6H2F2N2
reactant | LiHMDS | 7.50 mmol, 6.1 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-pyridine-2-carbonitrile | FC=1C=C(C(=NC1)C#N)NC1=C(C=C(C=C1)I)F | C12H6F2IN3
